US06492370B1
(2S)-2-(Isoamylamino)-N1-[2-(dimethylamino)ethyl]-3-phenylpropionamide Dihydrochloride (Reference Compound No. 9-1)
Anhydrous potassium carbonate (3.32 g) and molecular sieves 3A (5 g) are added successively to a solution of (2S)-2-amino-N1-[2-(dimethylamino)ethyl]-3-phenylpropionamide dihydrochloride (Reference compound No. 8-8, 2.47 g) and isovaleraldehyde (0.69 g) in ethanol (40 ml), and the mixture is stirred at room temperature for two hours. Sodium cyanoborohydride (0.55 g) is further added thereto, and the mixture is stirred at room temperature for two hours. Water is added to the reaction mixture, and the mixture is filtered with Celite. The filtrate is concentrated under reduced pressure, saturated brine is added to the residue, and the whole is extracted with ethyl acetate. The organic layer is washed with a 10% aqueous sodium hydrogencarbonate solution and saturated brine successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography, and the resulting oily matter is dissolved in ether (5 ml). A 4.6 N solution of hydrogen chloride in ethyl acetate (4 ml) is added thereto, and the resulting precipitate is filtered off to give 0.40 g (13%) of the titled compound (Reference compound No. 9-1) as crystals.

reactant | potassium carbonate | 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2S)-2-amino-N1-[2-(dimethylamino)ethyl]-3-phenylpropionamide dihydrochloride | Cl.Cl.N[C@H](C(=O)NCCN(C)C)CC1=CC=CC=C1
reactant | isovaleraldehyde | 0.69 g | C(CC(C)C)=O | C5H10O
reactant | Sodium cyanoborohydride | 0.55 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | (2S)-2-(Isoamylamino)-N1-[2-(dimethylamino)ethyl]-3-phenylpropionamide Dihydrochloride | 0.40 g, 13% | Cl.Cl.C(CC(C)C)N[C@H](C(=O)NCCN(C)C)CC1=CC=CC=C1 | InChI=1S/C18H31N3O.2ClH/c1-15(2)10-11-19-17(14-16-8-6-5-7-9-16)18(22)20-12-13-21(3)4;;/h5-9,15,17,19H,10-14H2,1-4H3,(H,20,22);2*1H/t17-;;/m0../s1
